US06410533B1
Preparation of 5-Amino-1-(4-bromo-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester
A solution of 4-bromophenylhydrazine (2.76 g, 14.7 mmol) and ethyl (ethoxymethylene)cyanoacetate (2.50 g, 14.8 mmol) in ethanol (15 mL) was heated at reflux for 2 hours. Upon cooling, a tan precipitate formed. The suspension was diluted with diethyl ether and suction filtered to remove solid. The filtercake was rinsed with diethyl ether and vacuum oven dried to afford 3.20 g (70%) of product as a tan solid: 1H NMR (CDCl3) d 7.79 (s, 1H), 7.64 (d, J=8.7 Hz, 2H), 7.45 (d, J=8.7 Hz, 2H), 5.30 (s, 2H), 4.31 (q, J=7.2 Hz, 2H), 1.37 (t, J=7.2 Hz, 3H) ppm.

reactant | 4-bromophenylhydrazine | 14.7 mmol, 2.76 g | BrC1=CC=C(C=C1)NN | C6H7BrN2
reactant | ethyl (ethoxymethylene)cyanoacetate | 14.8 mmol, 2.50 g | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-Amino-1-(4-bromo-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 3.20 g, 70% | C(C)OC(=O)C=1C=NN(C1N)C1=CC=C(C=C1)Br | C12H12BrN3O2
